US09334278B2
To a colorless solution of 4,5,6,7-tetrahydro-1H-pyrazolo[4,3-b]pyridine (168 mg, 1.36 mmol) in methanol (10 mL) was added di-tert-butyl dicarbonate (327 mg, 348 μL, 1.5 mmol) and the reaction was stirred at room temperature for 90 min. The solvents were evaporated under vacuum and the crude residue was purified by chromatography (40 g column, 50 m from Analogix, 0 to 5% 9:1 methanol:ammonium hydroxide in CH2Cl2, 20 min) to give tert-butyl 6,7-dihydro-1H-pyrazolo[4,3-b]pyridine-4(5H)-carboxylate (188 mg, 62%) as a colorless oil. 1H NMR (CHLOROFORM-d) δ: 11.38 (br. s., 1H), 7.43-8.06 (m, 1H), 3.69 (br. s., 2H), 2.75 (t, J=6.2 Hz, 2H), 1.89-2.02 (m, 2H), 1.43-1.65 (m, 9H). MS (EI/CI) m/z: 224.1 [M+H]+.

reactant | 4,5,6,7-tetrahydro-1H-pyrazolo[4,3-b]pyridine | 1.36 mmol, 168 mg | N1N=CC=2NCCCC21 | C6H9N3
reactant | di-tert-butyl dicarbonate | 1.5 mmol, 348 μL, 327 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 10 mL | CO | CH4O
product | tert-butyl 6,7-dihydro-1H-pyrazolo[4,3-b]pyridine-4(5H)-carboxylate | 188 mg, 62% | N1N=CC=2N(CCCC21)C(=O)OC(C)(C)C | C11H17N3O2
